US09260429B2
(C) 9-(2-cyclohexylethyl)-2,3,4,9-tetrahydro-2,6-dimethyl-1H-pyrido[3,4-b]indole (Compound 2)
The title compound was prepared by General Method 4. 2-(1-(2-cyclohexylethyl)-5-methyl-1H-indol-3-yl)-N-methylethanamine (72 mg) was dissolved in acetonitrile (2 mL) containing 5% TFA and the reaction mixture was heated to reflux. 37% aqueous formaldehyde (0.02 mL) was added and the reflux was continued for additional 2 h. The reaction mixture was cooled to 25° C., concentrated under reduced pressure and partitioned between ethyl acetate and satd. Aqueous NaHCO3. The organic layer was dried over sodium sulfate, evaporated under reduced pressure and the residue was purified by silica gel chromatography (eluent EtOAc/EtOH/NH3: 9/1/0.1) to obtain 52 mg of product. The free base was converted into its oxalate salt by treatment of oxalic acid (1 equiv) in anhydrous THF. 1H NMR (DMSO) δ 7.5 (d, 1H), 7.4 (s, 1H), 6.9 (d, 1H), 4.3 (bs, 2H), 4.0 (t, 2H), 3.6 (bs, 2H), 2.8 (m, 5H), 2.3 (s, 3H), 1.8-0.7 (m, 13H). MS m/z observed 311. HPLC RT 5.93 min.

reactant | 2-(1-(2-cyclohexylethyl)-5-methyl-1H-indol-3-yl)-N-methylethanamine | 72 mg | C1(CCCCC1)CCN1C=C(C2=CC(=CC=C12)C)CCNC | C20H30N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | formaldehyde | 0.02 mL | C=O | CH2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 9-(2-cyclohexylethyl)-2,3,4,9-tetrahydro-2,6-dimethyl-1H-pyrido[3,4-b]indole | C1(CCCCC1)CCN1C2=C(C3=CC(=CC=C13)C)CCN(C2)C | C21H30N2
